US04024145
13.8 G. of sodium were dissolved in 900 ml. of methanol. 46.8 G. of 3-hydroxy-5-keto-3-cyclohexenecarboxylic acid were added to this solution. The mixture was stirred, maintained between -4° C. and -8° C. with a cooling bath and treated over a period of 30 minutes with a phenyl diazonium chloride solution prepared from 27.9 g. of aniline, 450 ml. of water, 72 ml. of concentrated hydrochloric acid and 21.0 g. of sodium nitrite in 90 ml. of water. The mixture was stirred at -5° C. to -10° C. for an additional hour. The resulting red precipitate was removed by filtration under vacuum and washed with about 1000 ml. of water, thereby there was obtained 3-hydroxy-5-keto-4-phenylazo-3-cyclohexenecarboxylic acid of melting point 218° C.

reactant | sodium | [Na] | Na
reactant | 3-hydroxy-5-keto-3-cyclohexenecarboxylic acid | OC=1CC(CC(C1)=O)C(=O)O | C7H8O4
reactant | phenyl diazonium chloride | [Cl-].C1(=CC=CC=C1)[N+]#N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-hydroxy-5-keto-4-phenylazo-3-cyclohexenecarboxylic acid | OC=1CC(CC(C1N=NC1=CC=CC=C1)=O)C(=O)O | C13H12N2O4
